US07858630B2
Step 2: (3-Methyl-oxetan-3-yl)-acetic acid methyl ester
Chlorotrimethylsilane (74 μl, 0.58 mmol) was solved in 1.5 ml THF. Copper(I) iodide (7 mg, 0.04 mmol) and oxetan-3-ylidene-acetic acid methyl ester (50 mg, 0.39 mmol) in 0.5 ml THF were added at room temperature and the mixture was stirred for 15 minutes at room temperature. The reaction mixture was cooled to −15° C. and 3N methylmagnesiumchloride-solution (0.52 ml, 1.56 mmol) was added drop wise. The reaction mixture was stirred for 1 hour at room temperature, quenched then with saturated NH4Cl-solution and extracted with dichloromethane. The organic extracts were washed with brine, dried with sodium sulfate, filtered and evaporated to give 65 mg (92%) light yellow oil. The crude product was used for the next step without further purification.

reactant | Chlorotrimethylsilane | 0.58 mmol, 74 μl | Cl[Si](C)(C)C | C3H9ClSi
reactant | oxetan-3-ylidene-acetic acid methyl ester | 0.39 mmol, 50 mg | COC(C=C1COC1)=O | C6H8O3
reactant | methylmagnesiumchloride | 1.56 mmol, 3N, 0.52 ml | C[Mg]Cl
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
catalyst | Copper(I) iodide | 0.04 mmol, 7 mg | [Cu]I
product | (3-Methyl-oxetan-3-yl)-acetic acid methyl ester | COC(CC1(COC1)C)=O | C7H12O3
